US06333358B1
A solution of 1.51 g of N-chloroacetyl-N-(2-methoxybenzyl)-2-phenoxyaniline synthesized in the same manner as in Example 1 and 770 mg of sodium azide in 10 ml of dimethylformamide was stirred at room temperature overnight. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with 5% hydrochloric acid, a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, successively, and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the solvent was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate-hexane=1:4) to give 1.55 g of N-azidoacetyl-N-(2-methoxybenzyl)-2-phenoxyaniline as an oil.

reactant | N-chloroacetyl-N-(2-methoxybenzyl)-2-phenoxyaniline | 1.51 g | ClCC(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)OC | C22H20ClNO3
reactant | sodium azide | 770 mg | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-azidoacetyl-N-(2-methoxybenzyl)-2-phenoxyaniline | 1.55 g | N(=[N+]=[N-])CC(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=CC=C1)OC | C22H20N4O3
